US06472562B1
(S)-N-(1-Carbamoyl-4-guanidinobutyl)-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxy4-methylbenzamide
Rink resin (239 mg; loading 0.43 mmol/g) functionalized with Arg(Boc)2 was coupled with 106 mg of 3,5-dihydroxy-4-methylbenzoic acid in the presence of DIC (85 mg) and HOBt (90 mg) in DMF (1.5 ml). The resin was then washed and treated with a 15% solution of benzyltrimethylammonium hydroxide in DMF for 45 min. The resin was washed with DMF, 10% acetic acid in DMF, DMF and DCM and dried in vacuo for 4 h. The dried resin was washed with anhydrous THF and mixed with 145 mg (0.5 mmole) of triphenylphosphane and 25 μl of bistrimethylsilylacetamide in THF and kept at room temperature for 1 h. In a separate vial a mixture of 100 mg (0.2 mmol) of 2-(2,4-dichlorophenyl)ethanol and 100 μl of DIAD in dry THF was prepared. The reaction mixture was added to the resin which had previously been cooled in a refrigerator for 10 min. Coupling was continued at room temperature overnight. The resin was washed and dried, and the final product was cleaved off and processed as described in Example 1.

reactant | Arg(Boc)2 | N[C@@H](CCCNC(N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=N)C(=O)O | C16H30N4O6
reactant | 3,5-dihydroxy-4-methylbenzoic acid | 106 mg | OC=1C=C(C(=O)O)C=C(C1C)O | C8H8O4
reactant | DIC | 85 mg | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 90 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triphenylphosphane | 0.5 mmole, 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bistrimethylsilylacetamide | 25 μl | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2-(2,4-dichlorophenyl)ethanol | 0.2 mmol, 100 mg | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
reactant | DIAD | 100 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | (S)-N-(1-Carbamoyl-4-guanidinobutyl)-3-[2-(2,4-dichlorophenyl)ethoxy]-5-hydroxy4-methylbenzamide | C(N)(=O)[C@H](CCCNC(=N)N)NC(C1=CC(=C(C(=C1)O)C)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C22H27Cl2N5O4
